US04607053
N-Hydroxy-N-methyl-4-pentylbenzamide
To a 0° C. solution of N-methylhydroxylamine hydrochloride (793 mg, 2 eq.) in 20 ml of THF:H2O (1:1) with triethylamine (198 ml, 3.0 eq.) was added 4-(n-pentyl) benzoic acid chloride (1.0 ml, 4.75 mmol). The solution was stirred for 0.5 hour at 0° C. then allowed to warm to room temperature and stir overnight. The reaction mixture was diluted with EtOAc and the organic layer was washed with H2O, 1N HCl (2×), and brine, then dried over anhydrous MgSO4. Concentration in vacuo gave a yellow oil which was flash chromatographed in LPS-1 silica gel eluting with (1:1) hexane/EtOAc. Product containing fractions were concentrated in vacuo to yield title product, 380 mg (37%) as a light yellow oil.

reactant | N-methylhydroxylamine hydrochloride | 793 mg, 2 eq. | Cl.CNO
reactant | triethylamine | 198 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-(n-pentyl) benzoic acid chloride | 4.75 mmol, 1.0 ml | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
solvent | THF H2O | 20 ml | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Hydroxy-N-methyl-4-pentylbenzamide | ON(C(C1=CC=C(C=C1)CCCCC)=O)C | C13H19NO2
